US08686187B2
Preparation of 4-ethoxy-3-benzyloxybenzaldehyde
16.6 grams of 4-ethoxy-3-hydroxybenzaldehyde (100 mmol.) and 200 ml of absolute ethyl alcohol are added to a three-necked flask and then heated to 40° C. for being dissolved, 9 grams of potassium carbonate (65.07 mmol.) is added, 15 ml of benzyl chloride (130.13 mmol.) is added under stirring, heating reflux is performed for 1 hour, the reaction product is cooled to 50° C. after complete reaction is detected by TLC and then filtered while it is hot, the filtrate is put in a refrigerator for being cooled over night, crystals are separated out and pump-filtered, filter cakes are washed with 30 mL of absolute ethyl alcohol and then vacuum-dried to obtain 21.5 grams of white needle crystals, and the yield is 83.9%.

reactant | 4-ethoxy-3-hydroxybenzaldehyde | 100 mmol, 16.6 grams | C(C)OC1=C(C=C(C=O)C=C1)O | C9H10O3
reactant | potassium carbonate | 65.07 mmol, 9 grams | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 130.13 mmol, 15 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | 4-ethoxy-3-benzyloxybenzaldehyde | 21.5 grams, yield is 83.9% | C(C)OC1=C(C=C(C=O)C=C1)OCC1=CC=CC=C1 | C16H16O3
